US06248739B1
N-(4-Chlorobenzyl)-1-[3-(methylsulfanyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A dry flask containing N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide (0.20 gm) from Preparation No. 40 in dry THF (5 mL) under an argon atmosphere is added triphenylphosphine (396 mg), 3-methylthiolpropanol (0.16 mL) and diethyl azodicarboxylate (0.18 mL). The mixture is stirred at room temperature 48 hours and then concentrated under reduced pressure. The crude product is purified by flash column chromatography eluting with 2% to 6% methanol in dichloromethane and then by recrystallization from toluene-cyclohexane to afford 0.14 gm of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.20 gm | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)CN2CCOCC2)C=C1 | C22H22ClN3O3
reactant | triphenylphosphine | 396 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-methylthiolpropanol | 0.16 mL | CC1=C(SC=C1)CCCO | C8H12OS
reactant | diethyl azodicarboxylate | 0.18 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-1-[3-(methylsulfanyl)propyl]-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.14 gm | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CN2CCOCC2)CCCSC)C=C1 | C26H30ClN3O3S
